US09029545B2
[1-(3-Bromophenyl)ethylidene]propanedinitrile
To a stirred solution of acetic acid (30 mL) at RT was added hexamethyldisilazane (13.09 mL, 62.8 mmol) dropwise over 10 min, maintaining temperature below 40° C. The resulting solution was then added dropwise to a solution of 1-(3-bromophenyl)ethanone (6.68 mL, 50.2 mmol) and malononitrile (6.33 mL, 100 mmol) in acetic acid (30 mL) and the mixture heated to 70° C. under nitrogen overnight. The reaction mixture cooled to RT and partitioned between water and toluene (ca. 150 mL each). The aqueous layer was separated and re-extracted with toluene (ca. 100 mL). The combined organic layer was dried over MgSO4 and solvent removed in vacuo, to afford the title compound (12.7 g) which was carried over to next step without further purification. LCMS (A) m/z: 247/249 [M+1]+, Rt 1.18 min (acidic).

reactant | hexamethyldisilazane | 62.8 mmol, 13.09 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1-(3-bromophenyl)ethanone | 50.2 mmol, 6.68 mL | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
reactant | malononitrile | 100 mmol, 6.33 mL | C(CC#N)#N | C3H2N2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | [1-(3-Bromophenyl)ethylidene]propanedinitrile | 12.7 g | BrC=1C=C(C=CC1)C(C)=C(C#N)C#N | C11H7BrN2
